US07825256B2
N-(2-Benzo[1,3]dioxol-5-yl-ethyl)-2-chloro-acetamide (32 mg, 0.13 mmol) was dissolved in methylamine in anhydrous ethanol (33% by wt., 5 mL). The solution was allowed to stir at room temperature for 16 hours. After this time, the solution was concentrated down under N2 gas. The crude material was purified by prep-LCMS to afford 21 mg (68%) of N-(2-benzo[1,3]dioxol-5-yl-ethyl)-2-methylamino-acetamide. 1H-NMR (400 MHz, CD3OD) δ 6.73-6.65 (m, 3H), 5.89 (s, 2H), 3.46-3.39 (t, 2H), 3.31-3.29 (m, 2H), 2.74-2.70 (t, 2H), 2.35 (s, 3H).

reactant | N-(2-Benzo[1,3]dioxol-5-yl-ethyl)-2-chloro-acetamide | 0.13 mmol, 32 mg | O1COC2=C1C=CC(=C2)CCNC(CCl)=O | C11H12ClNO3
reactant | methylamine | CN | CH5N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | N-(2-benzo[1,3]dioxol-5-yl-ethyl)-2-methylamino-acetamide | 21 mg, 68% | O1COC2=C1C=CC(=C2)CCNC(CNC)=O | C12H16N2O3
